2109-01-17 07:44:00 Physician Resident Progress Note
Chief Complaint: 44M with metastatic renal call cancer with bowel
   perforation initially medically managed now s/p ileostomy
   24 Hour Events:
   Self-extubation attempt this AM - tube still in place
 INVASIVE VENTILATION - START [**2109-1-16**] 06:38 PM
 ARTERIAL LINE - START [**2109-1-16**] 09:04 PM
 URINE CULTURE - At [**2109-1-17**] 05:01 AM
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2109-1-16**] 08:00 PM
   Metronidazole - [**2109-1-17**] 06:00 AM
   Infusions:
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2109-1-16**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: Unable to answer
   Flowsheet Data as of  [**2109-1-17**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 118 (83 - 128) bpm
   BP: 90/50(66){90/50(66) - 157/92(116)} mmHg
   RR: 18 (12 - 18) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 65.5 kg (admission): 65.5 kg
   Height: 67 Inch
             Total In:
                                                                    962 mL
                                                                    300 mL
   PO:
             TF:
   IVF:
                                                                    962 mL
                                                                    300 mL
   Blood products:
   Total out:
                                                                    630 mL
                                                                  1,070 mL
   Urine:
                                                                    630 mL
                                                                    970 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    332 mL
                                                                   -770 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 22 cmH2O
   Plateau: 14 cmH2O
   SpO2: 98%
   ABG: 7.45/41/177/25/4
   Ve: 7.3 L/min
   PaO2 / FiO2: 443
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: nasotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, ileostomy
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   251 K/uL
   8.9 g/dL
   104 mg/dL
   2.2 mg/dL
   25 mEq/L
   3.7 mEq/L
   26 mg/dL
   112 mEq/L
   145 mEq/L
   29.2 %
   11.3 K/uL
        [image002.jpg]
   Micro
   [**1-13**] Cdiff
   2/8,[**1-12**] blood NGTD
   2/8,[**1-12**] urine negative
                             [**2109-1-16**]  07:04 PM
                             [**2109-1-16**]  11:20 PM
                             [**2109-1-17**]  04:07 AM
                             [**2109-1-17**]  04:23 AM
   WBC
   10.9
   11.3
   Hct
   28.7
   29.2
   Plt
   211
   251
   Cr
   2.5
   2.2
   TCO2
   26
   29
   Glucose
   108
   104
   Other labs: PT / PTT / INR:18.0/32.1/1.6, Differential-Neuts:89.6 %,
   Band:Units: %
   Range: 0-5 %, Lymph:6.5 %, Mono:3.5 %, Eos:0.3 %, Fibrinogen:419 mg/dL,
   Ca++:7.3 mg/dL, Mg++:2.2 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 INTESTINE, PERFORATION OF (PERFORATION OF HOLLOW VISCUS)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPERNATREMIA (HIGH SODIUM)
 CANCER (MALIGNANT NEOPLASM), RENAL (KIDNEY)
 ANEMIA, CHRONIC
   1. Colon perforation
   S/p diverting ileostomy today. Surgery following, recommendations
   appreciated.
   --Plan for completion abscess drainage tomorrow in IR while still
   intubated and sedated.
   --Reasonable to continue ciprofloxacin and flagyl empirically at this
   time, likely polymicobial infection in setting of bowel perforation.
   --Blood cultures pending, reculture if febrile
   --Fentanyl for pain control, bowel regimen per surgery
   2. Acute renal failure
   Suspected due to poor PO, contrast. Cr trending down.
   --Follow urine output and Cr, renal dose meds, avoid nephrotoxins
   3. Leukocytosis
   Improved post surgery. Likely was elevated in setting of intrabdominal
   abscess. Follow WBC, fever curve.
   3. Hypernatremia
   Likely secondary to NS resuscitation for ARF, volume up. Hold on
   diuresis given surgery let autodiurese. Repeat electrolytes in AM.
   4. Elevated INR
   INR 1.6 today increased from 1.3 at admission (review of prior labs
   shows INR 1.1-1.2 since [**2108-11-3**]). [**Month (only) 60**] have low level DIC in
   setting of malignancy - fibrinogen elevated in setting of acute
   illness. Tbili normal arguing against significantly impaired hepatic
   function. [**Month (only) 60**] also be related to antibiotics or poor nutrition (albumin
   2.2).
   --Check FDP smear. Follow PT and PTT
   5. Anemia
   Baseline Hct low 30's, somewhat decreased surgery. Baseline Hct in low
   30's, normocytic with normal iron studies [**9-10**]; likely anemia of
   chronic disease with component of blood loss. Follow Hct, type and
   screen active. Transfuse Hb>7.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2109-1-16**] 06:30 PM
   14 Gauge - [**2109-1-16**] 07:00 PM
   Arterial Line - [**2109-1-16**] 09:04 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2109-01-17 09:13:00 Physician Attending Progress Note
Chief Complaint: bowel perforation
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2109-1-16**] 06:38 PM
 ARTERIAL LINE - START [**2109-1-16**] 09:04 PM
 URINE CULTURE - At [**2109-1-17**] 05:01 AM
   Admitted to ICU after ileostomy.
   Remained intubated in anticipation of procedure today and very
   difficult intubation yesterday.
   Arterial line placed.
   ETT position confirmed by CXR this morning.
   Auto-diuresing.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2109-1-16**] 08:00 PM
   Metronidazole - [**2109-1-17**] 06:00 AM
   Infusions:
   Propofol - 15 mcg/Kg/min
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2109-1-16**] 10:00 PM
   Other medications:
   H2B, CHG, SQI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-1-17**] 09:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 38.1
C (100.6
   HR: 117 (83 - 128) bpm
   BP: 109/70(81) {93/63(70) - 126/90(98)} mmHg
   RR: 14 (12 - 18) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 65.5 kg (admission): 65.5 kg
   Height: 67 Inch
             Total In:
                                                                    962 mL
                                                                    321 mL
   PO:
             TF:
   IVF:
                                                                    962 mL
                                                                    321 mL
   Blood products:
   Total out:
                                                                    630 mL
                                                                  1,370 mL
   Urine:
                                                                    630 mL
                                                                  1,270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    332 mL
                                                                 -1,049 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 22 cmH2O
   Plateau: 14 cmH2O
   SpO2: 99%
   ABG: 7.45/41/177/25/4
   Ve: 7.3 L/min
   PaO2 / FiO2: 443
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, nasotracheal intubation
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , No(t) Wheezes : ),
   anterior exam only
   Abdominal: Soft, tender in right upper quadrant; ileostomy looks good
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, Tone: Normal
   Labs / Radiology
   8.9 g/dL
   251 K/uL
   104 mg/dL
   2.2 mg/dL
   25 mEq/L
   3.7 mEq/L
   26 mg/dL
   112 mEq/L
   145 mEq/L
   29.2 %
   11.3 K/uL
        [image002.jpg]
                             [**2109-1-16**]  07:04 PM
                             [**2109-1-16**]  11:20 PM
                             [**2109-1-17**]  04:07 AM
                             [**2109-1-17**]  04:23 AM
   WBC
   10.9
   11.3
   Hct
   28.7
   29.2
   Plt
   211
   251
   Cr
   2.5
   2.2
   TCO2
   26
   29
   Glucose
   108
   104
   Other labs: PT / PTT / INR:18.0/32.1/1.6, Differential-Neuts:89.6 %,
   Band:Units: %
   Range: 0-5 %, Lymph:6.5 %, Mono:3.5 %, Eos:0.3 %, Fibrinogen:419 mg/dL,
   Ca++:7.3 mg/dL, Mg++:2.2 mg/dL, PO4:3.6 mg/dL
   Imaging: CXR: increased right base opacity
   CT:
   .  Interval increase in left nephrectomy bed fluid collection,
   including
   extravasated oral contrast, which has tumor seen at least along
   surrounding
   the inferior portions of this collection.
   2.  Right abdominal wall mass described above.
   3.  Diffusely fatty liver and distended gallbladder, as before.
   4.  Bibasilar atelectasis.  Small foci of ill-defined opacity within
   both
   lungs are likely inflammatory or infectious in nature.
   Assessment and Plan
   44-year-old man with metastatic renal cell cancer POD1 s/p ileostomy
   for bowel perforation with focal peritonitis.
 INTESTINE, PERFORATION OF (PERFORATION OF HOLLOW VISCUS)
   -- ileostomy site looks fine
   -- to IR for drainage today
   -- sedate fully for IR procedure
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   -- leave intubated until stable after next procedure for primary
   problem, given difficult airway
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   -- improving; ?secondary to contrast
 HYPERNATREMIA (HIGH SODIUM)
   -- replete free water
 CANCER (MALIGNANT NEOPLASM), RENAL (KIDNEY)
   -- no acute intervention
 ANEMIA, CHRONIC
   -- follow Hct
 DIFFICULT AIRWAY
   -- anesthesia consult prior to extubation
   -- he is alert and cooperative at present
 PAIN CONTROL
   -- fentanyl gtt
   ICU Care
   Nutrition:
   Comments: NPO.  Discuss with primary team regarding TPN.
   Glycemic Control:
   Lines:
   18 Gauge - [**2109-1-16**] 06:30 PM
   14 Gauge - [**2109-1-16**] 07:00 PM
   Arterial Line - [**2109-1-16**] 09:04 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code peri-procedure
   Disposition :ICU
   Total time spent: 35 min
   Patient is critically ill
   ------ Protected Section ------
   Addendum
   Evaluated at 5:30pm.  Remained too sedated for extubation.  Given his
   high-risk airway (prior cric vs trach done emergently), and difficult
   recent intubation, would not extubate during the night.  Discussed with
   his surgery team, who concurs.
   In addition, his wife requested that
 if he should have a cardiac
   arrest
 we not perform CPR in him.  This is in keeping with his prior
   stated wishes and, furthermore, CPR is unlikely to offer much benefit
   if he has a full arrest in the current setting.  We will otherwise
   continue full care.  Discussed with surgical team.
   35 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 149**] [**Last Name (NamePattern1) 832**], MD
   on:[**2109-1-17**] 20:01 ------

2109-01-18 07:29:00 Physician Resident Progress Note
Chief Complaint: 44M with metastatic renal cell carcinoma on avastin
   c/b bowel perforation
   24 Hour Events:
   Had abscess drained at IR with 300cc fluid removed, JP drain placed
   PICC placed, TPN started
   Bolused for marginal urine output
   Remained intubated overnight with plan to extubate today with
   anesthesia available
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin 400mg IV q12 day 5
   Flagyl 500mg IV q8 day 5
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: Unable to answer
   Flowsheet Data as of  [**2109-1-18**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
F) 8AM [**1-17**]
   Tcurrent: 37.6
C (99.6
   HR: 88 (88 - 118) bpm
   BP: 87/57(64){87/57(64) - 122/83(91)} mmHg
   RR: 14 (2 - 16) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.5 kg (admission): 56.9 kg
   Height: 67 Inch
             Total In:
                                                                  2,647 mL
                                                                  1,116 mL
   PO:
             TF:
   IVF:
                                                                  2,602 mL
                                                                    804 mL
   Blood products:
   Total out:
                                                                  2,465 mL
                                                                  1,110 mL
   Urine:
                                                                  2,315 mL
                                                                  1,050 mL
   NG:
   Stool:
   Drains:
   10 mL
   Balance:
                                                                    182 mL
                                                                      6 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   PS : 5 cmH2O
   RR (Set): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 21 cmH2O
   Plateau: 16 cmH2O
   SpO2: 96%
   ABG: 7.43/40/175/27/2
   Ve: 7.4 L/min
   PaO2 / FiO2: 438
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: nasotracheal intubation
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, ileostomy with green
   stool, small amount of yellow brown fluid from JP drain
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   177 K/uL
   7.6 g/dL
   140 mg/dL
   2.2 mg/dL
   27 mEq/L
   3.6 mEq/L
   23 mg/dL
   118 mEq/L
   150 mEq/L
   25.1 %
   7.1 K/uL
        [image002.jpg]
   Micro
   [**1-11**] blood cx negative
   2/8,[**1-12**] urine cx negative
   [**1-12**] blood cx NGTD
   [**1-13**] c diff negative
                             [**2109-1-16**]  07:04 PM
                             [**2109-1-16**]  11:20 PM
                             [**2109-1-17**]  04:07 AM
                             [**2109-1-17**]  04:23 AM
                             [**2109-1-17**]  06:39 PM
                             [**2109-1-18**]  05:14 AM
                             [**2109-1-18**]  05:32 AM
   WBC
   10.9
   11.3
   7.1
   Hct
   28.7
   29.2
   25.1
   Plt
   [**Telephone/Fax (3) 909**]
   Cr
   2.5
   2.2
   2.2
   TCO2
   26
   29
   29
   27
   Glucose
   108
   104
   140
   Other labs: PT / PTT / INR:17.5/32.8/1.6, Differential-Neuts:89.6 %,
   Band:Units: %
   Range: 0-5 %, Lymph:6.5 %, Mono:3.5 %, Eos:0.3 %, Fibrinogen:419 mg/dL,
   Ca++:7.0 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   1. Colon perforation
   S/p diverting ileostomy and IR drainage of intrabdominal fluid
   collection.  Leukocytosis resolved, no significant fevers.
   --Would continue cipro/flagyl to complete 10 day course for secondary
   peritonitis given stool in abdomen. Fluid drained in IR was not sent
   for culture. Will hold off on broadening coverage given clinical
   response. If decompensates would cover expand GI flora coverage to
   included enterococcus and more highly resistent gram negatives e.g.
   vancomycin and zosyn.
   --Blood cultures pending, reculture if febrile
   --Continue fentanyl for pain control, plan for PCA post extubation
   2. Acute renal failure
   Cr improved from admission, good urine output currently
   --Follow urine output and Cr, renal dose meds, avoid nephrotoxins
   3. Hypernatremia
   Likely due to saline resuscitation/?TPN, would hold off on IVF and
   recheck PM electrolytes, let autodiurese
   4. Elevated INR
   INR stable at 1.6, was 1.3 at admission (review of prior labs shows INR
   1.1-1.2 since [**2108-11-3**]). [**Month (only) 60**] have low level DIC in setting of
   malignancy. Tbili normal arguing against significantly impaired hepatic
   function. [**Month (only) 60**] also be related to antibiotics or poor nutrition (albumin
   2.2).
   --Follow coags daily, can hold on FFP/vitamin K for now.
   5. Anemia
   Hct slightly decreased post surgery and IR procedure.
   Baseline Hct in low 30's, normocytic with normal iron studies [**9-10**];
   likely anemia of chronic disease with component of blood loss. No
   evidence of gross active bleeding. Check PM Hct. Transfuse Hb>7.
   6. Difficult airway
   s/p C spine surgery, had to undergo fiberoptic nasotracheal intubation
   in OR
   ICU Care
   Nutrition:
   TPN without Lipids - [**2109-1-17**] 10:56 PM 42 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2109-1-16**] 06:30 PM
   Arterial Line - [**2109-1-16**] 09:04 PM
   PICC Line - [**2109-1-17**] 10:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: now extubated
   Communication:  with wife
   [**Name (NI) 66**] status: DNR may intubate if likely reversible process per wife
   Disposition:ICU

2109-01-18 09:09:00 Physician Attending Progress Note
Chief Complaint: peritonitis / perforated bowel
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PERCUTANEOUS DRAIN INSERTION - At [**2109-1-17**] 02:00 PM
   R lateral abdominal cavity to drain stool pocket [**1-5**] bowel perf
 PICC LINE - START [**2109-1-17**] 10:00 PM
   Tolerated perc drain; kept intubated overnight
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2109-1-17**] 08:00 PM
   Metronidazole - [**2109-1-18**] 05:28 AM
   Infusions:
   Propofol - 52.7 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2109-1-17**] 12:41 PM
   Midazolam (Versed) - [**2109-1-17**] 01:15 PM
   Heparin Sodium (Prophylaxis) - [**2109-1-17**] 07:00 PM
   Famotidine (Pepcid) - [**2109-1-17**] 10:00 PM
   Other medications:
   SQI, CHG, Duragesic
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-1-18**] 09:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.6
C (99.6
   HR: 88 (88 - 118) bpm
   BP: 87/57(64) {87/57(64) - 122/83(91)} mmHg
   RR: 14 (2 - 16) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.5 kg (admission): 56.9 kg
   Height: 67 Inch
             Total In:
                                                                  2,647 mL
                                                                  1,826 mL
   PO:
             TF:
   IVF:
                                                                  2,602 mL
                                                                  1,457 mL
   Blood products:
   Total out:
                                                                  2,465 mL
                                                                  1,110 mL
   Urine:
                                                                  2,315 mL
                                                                  1,050 mL
   NG:
   Stool:
   Drains:
   10 mL
   Balance:
                                                                    182 mL
                                                                    716 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   PS : 5 cmH2O
   RR (Set): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 21 cmH2O
   Plateau: 14 cmH2O
   SpO2: 96%
   ABG: 7.43/40/175/27/2
   Ve: 8 L/min
   PaO2 / FiO2: 438
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Abdominal: Soft, Non-tender, drain in place, ileostomy in place
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: No spontaneous
   movement, Sedated, Tone: Not assessed
   Labs / Radiology
   7.6 g/dL
   177 K/uL
   140 mg/dL
   2.2 mg/dL
   27 mEq/L
   3.6 mEq/L
   23 mg/dL
   118 mEq/L
   150 mEq/L
   25.1 %
   7.1 K/uL
        [image002.jpg]
                             [**2109-1-16**]  07:04 PM
                             [**2109-1-16**]  11:20 PM
                             [**2109-1-17**]  04:07 AM
                             [**2109-1-17**]  04:23 AM
                             [**2109-1-17**]  06:39 PM
                             [**2109-1-18**]  05:14 AM
                             [**2109-1-18**]  05:32 AM
   WBC
   10.9
   11.3
   7.1
   Hct
   28.7
   29.2
   25.1
   Plt
   [**Telephone/Fax (3) 909**]
   Cr
   2.5
   2.2
   2.2
   TCO2
   26
   29
   29
   27
   Glucose
   108
   104
   140
   Other labs: PT / PTT / INR:17.5/32.8/1.6, Differential-Neuts:89.6 %,
   Band:Units: %
   Range: 0-5 %, Lymph:6.5 %, Mono:3.5 %, Eos:0.3 %, Fibrinogen:419 mg/dL,
   Ca++:7.0 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Microbiology: No new micro
   Assessment and Plan
   44-year-old man with localized peritonitis from bowel perforation
   related to his metastatic renal cell CA and potentially to anti-VEGF
   treatment.
 DIFFICULT AIRWAY / RESPIRATORY FAILURE
   - consult anesthesia for potential extubation
   - hold sedation
   - trial of [**4-8**]
 INTESTINE, PERFORATION OF (PERFORATION OF HOLLOW VISCUS)
   - s/p draininage and diverting ileostomy
   - on cipro/flagyl.  Although this doesn't cover all possible pathogens,
   he has been stable on it for several days so we will not change
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   - good urine output
 HYPERNATREMIA (HIGH SODIUM)
   - potentially hypovolemic.  We will follow his sodium and adjust TPN
   appropriately.
 CANCER (MALIGNANT NEOPLASM), RENAL (KIDNEY)
   - no acute intervention
 ANEMIA, CHRONIC
   - follow Hct
   ICU Care
   Nutrition:
   TPN without Lipids - [**2109-1-17**] 10:56 PM 42 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2109-1-16**] 06:30 PM
   Arterial Line - [**2109-1-16**] 09:04 PM
   PICC Line - [**2109-1-17**] 10:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 min
   Patient is critically ill

2109-01-19 08:13:00 Physician Resident Progress Note
Chief Complaint: 44M with metastatic renal cell carcinoma c/b bowel
   perf
   24 Hour Events:
   Cr up from 2.2 to 3.3; developed tachycardia and hypernatremia
   Continued to have 100-200cc urine out per hour
   ?diabetes insipidus, Posm, Uosm sent
   Given D5 for hypernatremia
   Allergies:
   No Known Drug Allergies
   Antibiotics:
   Ciprofloxacin 400mg IV q12 day 6
   Flagyl 500mg IV q8 day 6
   Other medications:
   Famotidine
   Fentanyl patch
   Heparin SQ
   Insulin
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Endocrine: Thirsty
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2109-1-19**] 08:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.7
C (98
   HR: 95 (85 - 125) bpm
   BP: 144/91(103){98/59(68) - 154/97(110)} mmHg
   RR: 16 (11 - 19) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.5 kg (admission): 56.9 kg
   Height: 67 Inch
             Total In:
                                                                  4,895 mL
                                                                    909 mL
   PO:
             TF:
   IVF:
                                                                  3,795 mL
                                                                    400 mL
   Blood products:
   Total out:
                                                                  4,065 mL
                                                                  1,695 mL
   Urine:
                                                                  4,000 mL
                                                                  1,690 mL
   NG:
   Stool:
   Drains:
                                                                     15 mL
                                                                      5 mL
   Balance:
                                                                    830 mL
                                                                   -786 mL
   Respiratory support
   O2 Delivery Device: None
   Vt (Spontaneous): 406 (406 - 406) mL
   SpO2: 94%
   ABG: 7.42/41/99.[**Numeric Identifier 128**]/26/1
   PaO2 / FiO2: 248
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, mild tender R side, ostomy with
   black fluid draining JP with minimal yellow/clear fluid
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Labs / Radiology
   209 K/uL
   8.0 g/dL
   162 mg/dL
   1.9 mg/dL
   26 mEq/L
   4.1 mEq/L
   24 mg/dL
   115 mEq/L
   147 mEq/L
   25.8 %
   6.8 K/uL
        [image002.jpg]
   [**1-18**] urine osm 291
   Micro
   [**1-13**] stool c diff negative
   [**1-11**] and [**1-12**] blood negative; 2/8,[**1-12**] urine negative
                             [**2109-1-17**]  04:07 AM
                             [**2109-1-17**]  04:23 AM
                             [**2109-1-17**]  06:39 PM
                             [**2109-1-18**]  05:14 AM
                             [**2109-1-18**]  05:32 AM
                             [**2109-1-18**]  10:12 AM
                             [**2109-1-18**]  01:45 PM
                             [**2109-1-18**]  05:01 PM
                             [**2109-1-18**]  09:52 PM
                             [**2109-1-19**]  04:43 AM
   WBC
   11.3
   7.1
   6.2
   6.8
   Hct
   29.2
   25.1
   23.8
   25.8
   Plt
   [**Telephone/Fax (3) 932**]09
   Cr
   2.2
   2.2
   3.3
   2.0
   1.9
   TCO2
   29
   29
   27
   29
   28
   Glucose
   104
   140
   139
   183
   162
   Other labs: PT / PTT / INR:17.5/32.8/1.6, Differential-Neuts:81.8 %,
   Band:Units: %
   Range: 0-5 %, Lymph:12.5 %, Mono:4.4 %, Eos:1.2 %, Fibrinogen:419
   mg/dL, Ca++:7.4 mg/dL, Mg++:1.9 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   1. Colon perforation
   S/p diverting ileostomy and IR drainage of intrabdominal fluid
   collection.  Leukocytosis resolved, no significant fevers.
   --Would continue cipro/flagyl to complete 10 day course given stool in
   abdomen. Fluid drained in IR was not sent for culture. Will hold off on
   broadening coverage given clinical response. If decompensates would
   cover expand GI flora coverage to included enterococcus and more highly
   resistent gram negatives e.g. vancomycin and zosyn.
   --Blood cultures pending, reculture if febrile
   --Patient c/o increased pain after [**Last Name (LF) 939**], [**First Name3 (LF) **] will increase fentanyl
   patch with prn fentanyl [**Last Name (LF) 774**], [**First Name3 (LF) **] need to return to PCA, will reassess
   pain during the day
   2. Acute renal failure
   Cr continues to trend downward following IVF, good urine output
   currently
   --Follow urine output and Cr, renal dose meds, avoid nephrotoxins
   3. Hypernatremia
   Initially thought to be secondary to saline resucitation, but Na and Cr
   increased yesterday. Urine output good throughout, UA spec [**Last Name (un) **] and Osm
   shows dilute urine. [**Month (only) 60**] have DI - ?post surgical vs. secondary to
   resolving renal failure. Not on any meds currently classically
   associated with DI. Calculated free water deficity 1.7L, will give D5W
   to correct repeat PM electrolytes.
   4. Elevated INR
   INR stable at 1.6, was 1.3 at admission (review of prior labs shows INR
   1.1-1.2 since [**2108-11-3**]). [**Month (only) 60**] have low level DIC in setting of
   malignancy. Tbili normal arguing against significantly impaired hepatic
   function. [**Month (only) 60**] also be related to antibiotics or poor nutrition (albumin
   2.2).
   --Follow coags daily, can hold on FFP/vitamin K for now.
   5. Anemia
   Hct slightly decreased post surgery and IR procedure.  Stable.
   Baseline Hct in low 30's, normocytic with normal iron studies [**9-10**];
   likely anemia of chronic disease with component of blood loss. No
   evidence of gross active bleeding. Check PM Hct. Transfuse Hb>7.
   6. Difficult airway
   s/p C spine surgery, had to undergo fiberoptic nasotracheal intubation
   in OR
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2109-1-18**] 07:30 PM 62.5 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2109-1-16**] 06:30 PM
   Arterial Line - [**2109-1-16**] 09:04 PM  can d/c today
   PICC Line - [**2109-1-17**] 10:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:  n/a
   Communication:  with wife
   [**Name (NI) 66**] status: Full code
   Disposition:Transfer to floor
   ------ Protected Section ------
   Will start limited PO as tolerated, review with surgery
   ------ Protected Section Addendum Entered By:[**First Name4 (NamePattern1) 435**] [**Last Name (NamePattern1) 436**], MD
   on:[**2109-1-19**] 12:56 ------

2109-01-19 11:14:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2109-1-18**] 11:03 AM
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2109-1-18**] 07:30 PM
   Metronidazole - [**2109-1-19**] 06:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2109-1-18**] 11:00 PM
   Heparin Sodium (Prophylaxis) - [**2109-1-19**] 08:45 AM
   Other medications:
   insulin sliding scale, fentanyl patch
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: No(t) Dyspnea
   Gastrointestinal: Abdominal pain
   Pain: [**4-9**] Moderate
   Pain location: abdomen
   Flowsheet Data as of  [**2109-1-19**] 11:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.1
C (98.8
   HR: 99 (95 - 125) bpm
   BP: 143/93(105){119/74(86) - 154/98(110)} mmHg
   RR: 12 (11 - 19) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 59.4 kg (admission): 56.9 kg
   Height: 67 Inch
             Total In:
                                                                  4,895 mL
                                                                  1,324 mL
   PO:
             240 mL
   TF:
   IVF:
                                                                  3,795 mL
                                                                    400 mL
   Blood products:
   Total out:
                                                                  4,065 mL
                                                                  2,835 mL
   Urine:
                                                                  4,000 mL
                                                                  2,830 mL
   NG:
   Stool:
   Drains:
                                                                     15 mL
                                                                      5 mL
   Balance:
                                                                    830 mL
                                                                 -1,511 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: 7.42/41/99.[**Numeric Identifier 128**]/26/1
   PaO2 / FiO2: 248
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , Crackles : left base)
   Abdominal: Soft, Tender: mild RUQ TTP
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.0 g/dL
   209 K/uL
   162 mg/dL
   1.9 mg/dL
   26 mEq/L
   4.1 mEq/L
   24 mg/dL
   115 mEq/L
   147 mEq/L
   25.8 %
   6.8 K/uL
        [image002.jpg]
                             [**2109-1-17**]  04:07 AM
                             [**2109-1-17**]  04:23 AM
                             [**2109-1-17**]  06:39 PM
                             [**2109-1-18**]  05:14 AM
                             [**2109-1-18**]  05:32 AM
                             [**2109-1-18**]  10:12 AM
                             [**2109-1-18**]  01:45 PM
                             [**2109-1-18**]  05:01 PM
                             [**2109-1-18**]  09:52 PM
                             [**2109-1-19**]  04:43 AM
   WBC
   11.3
   7.1
   6.2
   6.8
   Hct
   29.2
   25.1
   23.8
   25.8
   Plt
   [**Telephone/Fax (3) 932**]09
   Cr
   2.2
   2.2
   3.3
   2.0
   1.9
   TCO2
   29
   29
   27
   29
   28
   Glucose
   104
   140
   139
   183
   162
   Other labs: PT / PTT / INR:17.5/32.8/1.6, Differential-Neuts:81.8 %,
   Band:Units: %
   Range: 0-5 %, Lymph:12.5 %, Mono:4.4 %, Eos:1.2 %, Fibrinogen:419
   mg/dL, Ca++:7.4 mg/dL, Mg++:1.9 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   44 y/o M with metastatic RCC and colonic perforation, adm to [**Hospital Unit Name 44**] for
   post-op monitoring.  Now extubated, doing well.
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Difficult airway:  Extubated successfully.
 INTESTINE, PERFORATION OF (PERFORATION OF HOLLOW VISCUS):  Now s/p
   diverting ileostomy and IR drainage of abscess.  Leukocytosis
   resolved.
   - cont cipro/flagyl for 10 day course
   - Surgery following
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF):  Creatinine improved
   today.
 HYPERNATREMIA (HIGH SODIUM):  Potentially due to DI given his high
   urine output.  Free water deficit 1.7 liters, on D5W IV.  Repeat lytes
   later.  Urine osm last night was in 200s, which is inappropriately
   dilute given his serum sodium.  Will replete free water, continue to
   monitor.
 CANCER (MALIGNANT NEOPLASM), RENAL (KIDNEY):  Not actively being
   treated.
 ANEMIA, CHRONIC: Stable
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2109-1-18**] 07:30 PM 62.5 mL/hour
   Comments: starting sips of water per surgery
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   18 Gauge - [**2109-1-16**] 06:30 PM
   Arterial Line - [**2109-1-16**] 09:04 PM
   PICC Line - [**2109-1-17**] 10:00 PM
   Comments: d/c a-line today
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 40